US08067642B2
Step 1—Synthesis of chloro-bis(diethylamino)-phosphine
To a solution of phosphorous trichloride (26 ml; 0.298 mol) in dry diethylether (500 ml) at −78° C., acetone/CO2 bath, under dry nitrogen gas atmosphere was added diethylamine (123.4 ml; 1.19 mol) dropwise via a pressure equalised dropping funnel over 2 hrs. A thick suspension formed, reaction allowed to warm to ambient temperature and stirred for an additional 2 hrs. After this time the suspension was filtered under dry nitrogen gas via an oven dried filter stick, washing with dry diethylether (3×100 ml). Filtrate was evaporated under high vacuum on the Schlenk line, using a cold-finger trap to condense solvent vapours, to give an oil. The oil was purified by distillation under reduced pressure to give the required product (b.p. 105° C. @ 10 mmHg; 49 g; 70% yield). 1H NMR (300 MHz, CDCl3), δ/ppm; 1.08 (6H, t J=7.0, CH3), 3.08 (4H, ap. br. d J=7.0, CH2); 31P NMR (121 MHz, CDCl3) δ/ppm; 159.9.

reactant | phosphorous trichloride | 0.298 mol, 26 ml | P(Cl)(Cl)Cl | Cl3P
reactant | diethylamine | 1.19 mol, 123.4 ml | C(C)NCC | C4H11N
solvent | diethylether | 500 ml | C(C)OCC | C4H10O
product | chloro-bis(diethylamino)-phosphine | 49 g, 70% yield | ClP(N(CC)CC)N(CC)CC | C8H20ClN2P
